US05532237
Step 1: 2-Methyl-1H-indol-3-ylacetic acid, methyl ester.
The compound of step 1 (1.13g; 5.56 mmol) in 6 mL of DMF was treated with NaH 80% (0.18 g; 5.99 mmol) at 25° C. After 30 min a solution of 1-naphthoyl chloride in 5 mL of DMF was added dropwise The reaction mixture was left stirring for 16 h and poured into cold water-EtOAc. The organic phase was washed with H2O (2×15 mL) and brine, dried over Na2SO4 and the solvent removed. Chromatography on silica gel (eluted with 2% EtOAc in toluene) yielded 0.86 g (43%) of the title compound. 1H NMR (CDCL3, 400 MHZ) Δ2.20 (S, 3H), 3.67 (S, 3H), 7.0 (M, 1H), 7.10-7.26 (M, 3H), 7.45-7.60 (M, 5H), 7.95 (M, 1H) AND 8.07 (M, 3H).

reactant | NaH | 5.99 mmol, 0.18 g | [H-].[Na+]
reactant | 1-naphthoyl chloride | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | water EtOAc | O.CCOC(=O)C
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-1H-indol-3-ylacetic acid, methyl ester | 0.86 g, 43% | CC=1NC2=CC=CC=C2C1CC(=O)OC | C12H13NO2
